US04146716
3,4-Dihydrothieno[ 2,3-d] pyrimidin-4-one (50 g) was added portionwise to chlorosulphonic acid (243 ml), maintaining the temperature below 0° C. Thionyl chloride (121 ml) was added dropwise, and the mixture stirred for a further 30 minutes at room temperature; then two hours at reflux. It was then cooled, and poured carefully on to ice. The precipitate was washed and dried to give 6-chlorosulphonylthieno[ 2,3-d] pyrimidin-4-one (84 g). This compound (30 g) and dimethylamine (450 ml) were mixed at -10°, then allowed to stir at room temperature for two hours. The mixture was poured into water and acidified with hydrochloric acid. The precipitate was washed with water and ethanol, and dried to give the 6-dimethylsulphonamido-4-one (23.8 g). This material was converted into the 4-chloro derivative as described in Example 19 above and thence into the title compounds by treatment with amines basically as described in Example 5.

reactant | 3,4-Dihydrothieno[ 2,3-d] pyrimidin-4-one | 50 g | N1=CNC(C2=C1SC=C2)=O | C6H4N2OS
reactant | chlorosulphonic acid | 243 ml | ClS(=O)(=O)O | ClHO3S
reactant | Thionyl chloride | 121 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-chlorosulphonylthieno[ 2,3-d] pyrimidin-4-one | 84 g | ClS(=O)(=O)C1=CC2=C(N=CNC2=O)S1 | C6H3ClN2O3S2
